US08114872B2
N-(2-(1H-1,2,3-Triazol-1-yl)ethyl)-5-fluoro-4-(7-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-4-yl)benzo[b]thiophen-2-yl)pyrimidin-2-amine
Combine {5-fluoro-4-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzo[b]thiophen-2-yl]-pyrimidin-2-yl}-(2-[1,2,3]triazol-1-yl-ethyl)-amine (0.105 g, 0.23 mmol), 3-fluoro-4-bromo-1H-pyrrolo[2,3-b]pyridine (51 mg, 0.30 mmol), barium hydroxide octahydrate (0.21 g, 0.68 mmol, alternatively sodium carbonate, potassium carbonate, sodium bicarbonate), Pd(dppf)Cl2 (20 mg, 0.025 mmol) in 2 mL of mixed solvent of DMF (alternatively dioxane, THF, DMSO, and CH3CN) and water (4/1, v/v). Heat the reaction mixture to 80° C. for 2.5 h. (or microwave heating for 10-60 min). Cool to RT. Dilute it with chloroform/IPA (3:1, v/v) 50 mL. Wash it with water and saturated aqueous sodium chloride and dry over magnesium sulfate. Remove the organic solvent to give the crude product. Purify by column chromatography (hexane to ethyl acetate) to afford the title compound (0.05 g, 47%). MS (ES) m/z 475 [M+1]+.

reactant | {5-fluoro-4-[7-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzo[b]thiophen-2-yl]-pyrimidin-2-yl}-(2-[1,2,3]triazol-1-yl-ethyl)-amine | 0.23 mmol, 0.105 g | FC=1C(=NC(=NC1)NCCN1N=NC=C1)C1=CC2=C(S1)C(=CC=C2)B2OC(C(O2)(C)C)(C)C | C22H24BFN6O2S
reactant | 3-fluoro-4-bromo-1H-pyrrolo[2,3-b]pyridine | 0.30 mmol, 51 mg | FC1=CNC2=NC=CC(=C21)Br | C7H4BrFN2
reactant | barium hydroxide octahydrate | O.O.O.O.O.O.O.O.[OH-].[Ba+2].[OH-]
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | chloroform IPA | C(Cl)(Cl)Cl.CC(C)O
catalyst | Pd(dppf)Cl2 | 0.025 mmol, 20 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | O | H2O
solvent | CH3CN | CC#N | C2H3N
solvent | DMSO | CS(=O)C | C2H6OS
solvent | THF | C1CCOC1 | C4H8O
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DMF | CN(C)C=O | C3H7NO
product | N-(2-(1H-1,2,3-Triazol-1-yl)ethyl)-5-fluoro-4-(7-(5-fluoro-1H-pyrrolo[2,3-b]pyridin-4-yl)benzo[b]thiophen-2-yl)pyrimidin-2-amine | 0.05 g, 47% | N1(N=NC=C1)CCNC1=NC=C(C(=N1)C1=CC2=C(S1)C(=CC=C2)C2=C1C(=NC=C2F)NC=C1)F | C23H16F2N8S
